US09108953B2
To a mixture of 7-chloro-N-cyclopentylquinoxaline-5-sulfonamide (0.07 g, 0.22 mmol), 3,5-dimethylisoxazole-4-boronic acid pinacol ester (0.15 g, 0.66 mM, Aldrich catalogue number 643882), Peppsi-iPr (0.014 g, 0.022 mM, Aldrich catalogue number 669032) and cesium carbonate (0.143 g, 0.44 mM) under nitrogen was added dimethoxyethane (3 mL) and water (1 mL). The reaction mixture was heated to 90° C. for 1 hour. The mixture is partitioned between water and ethyl acetate, the aqueous phase is discarded and the products are purified by silica gel (rf=0.36 in 1:1 hexanes/ethyl acetate) to give N-cyclopentyl-7-(3,5-dimethylisoxazol-4-yl)quinoxaline-5-sulfonamide as an off-white solid.

reactant | 7-chloro-N-cyclopentylquinoxaline-5-sulfonamide | 0.22 mmol, 0.07 g | ClC=1C=C(C=2N=CC=NC2C1)S(=O)(=O)NC1CCCC1 | C13H14ClN3O2S
reactant | 3,5-dimethylisoxazole-4-boronic acid pinacol ester | 0.66 mM, 0.15 g | CC1=NOC(=C1B1OC(C)(C)C(C)(C)O1)C | C11H18BNO3
reactant | cesium carbonate | 0.44 mM, 0.143 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | dimethoxyethane | 3 mL | C(OC)COC | C4H10O2
solvent | water | 1 mL | O | H2O
product | N-cyclopentyl-7-(3,5-dimethylisoxazol-4-yl)quinoxaline-5-sulfonamide | C1(CCCC1)NS(=O)(=O)C=1C=2N=CC=NC2C=C(C1)C=1C(=NOC1C)C | C18H20N4O3S
